US09340509B2
Synthesis of 2-bromo-3-fluoro-4-trifluoromethoxyaniline
In a 40 mL vial was added 2,6-dibromo-3-fluoro-4-trifluoromethoxyaniline (172 mg, 0.489 mmol), followed by tin(II) chloride dihydrate (122 mg, 0.540 mmol, 1.1 eq.). Acetic acid (725 μL) and concentrated hydrochloric acid (580 μL) was added to make a solution. The reaction mixture was heated at 115° C. for 1.5 hours. After cooling the reaction to room temperature, most of acetic acid was removed under vacuum. Water was added and the product was extracted with dichloromethane three times. The organic layer was dried over anhydrous sodium sulfate. After removing the solvent under reduced pressure, the crude material was purified using silica gel column chromatography. The recovered 2,6-dibromo-3-fluoro-4-trifluoromethoxyaniline was eluted using a gradient of 5˜10% ethyl acetate in hexanes followed by the desired product, 2-bromo-3-fluoro-4-trifluoromethoxyaniline, which was eluted with 15% ethyl acetate in hexanes (64.8 mg, 0.236 mmol, 48%). 1H NMR (400 MHz, CDCl3) δ 7.06 (dd, J=9.0, 9.0 Hz, 1H), 6.52 (dd, J=9.0, 2.0 Hz, 1H), 4.27 (br, 2H).

reactant | 2,6-dibromo-3-fluoro-4-trifluoromethoxyaniline | 0.489 mmol, 172 mg | BrC1=C(N)C(=CC(=C1F)OC(F)(F)F)Br | C7H3Br2F4NO
reactant | tin(II) chloride dihydrate | 0.540 mmol, 122 mg, 1.1 eq. | O.O.[Sn](Cl)Cl
reactant | Acetic acid | 725 μL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 580 μL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-3-fluoro-4-trifluoromethoxyaniline | BrC1=C(N)C=CC(=C1F)OC(F)(F)F | C7H4BrF4NO
